US08193349B2
To a solution trans-(3-hydroxy-cyclobutyl)-acetic acid methyl ester (168 mg, 1.17 mmol) in DMF (1.5 mL) is added, NaH (60% in oil, 70 mg, 1.75 mmol) at 0° C. After stirring at 0° C. for 15 minutes, benzyl bromide (167 uL, 1.40 mmol) is added at 0° C. The mixture is stirred at room temperature for 2 hours and quenched with H2O. The mixture is extracted with dichloromethane, and the organic layer is concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give trans-(3-benzyloxy-cyclobutyl)-acetic acid methyl ester (110 mg, 40%); ESI-MS m/z 235 [M+1]+, retention time 1.97 min (condition A).

reactant | trans-(3-hydroxy-cyclobutyl)-acetic acid methyl ester | 1.17 mmol, 168 mg | COC(C[C@@H]1C[C@H](C1)O)=O | C7H12O3
reactant | NaH | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | benzyl bromide | 1.40 mmol, 167 uL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | trans-(3-benzyloxy-cyclobutyl)-acetic acid methyl ester | 110 mg, 40% | COC(C[C@@H]1C[C@H](C1)OCC1=CC=CC=C1)=O | C14H18O3
